US04463172
A 0.5 ml portion of Et3N, along with 1.13 g of 2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl chloride, was added to a solution of 1.6 g of diphenylmethyl 7-amino-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylate in 50 ml of CH2Cl2 at -40° C., and the mixture was stirred at from -20° C. to -15° C. for 45 minutes. The reaction solution was washed with H2O, 5% aqueous NaHCO3 and saturated aqueous NaCl solutions, and dried over MgSO4, followed by distilling off the CH2Cl2 under reduced pressure. The residue was added on a column of silica gel, and the fractions eluted with CH2Cl2.AcOEt (5:1) were collected to distill off the solvent, thus yielding 1.5 g (61%) of diphenylmethyl 7-[2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylate.

reactant | Et3N | CCN(CC)CC | C6H15N
reactant | 2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl chloride | 1.13 g | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC | C8H7Cl2N3O3S
reactant | diphenylmethyl 7-amino-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylate | 1.6 g | NC1[C@@H]2N(C(=C([C@@H](S2)C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H24N2O5S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7-[2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylate | 1.5 g, 61% | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C([C@@H](S2)C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C32H30ClN5O8S2
